US08686024B2
Synthesis of 1-(4-pyridylmethyl)-3,3-dimethylindolin-5-yl 4-dimethylaminophenylcarbamate
The title compound was synthesized from 1-(4-pyridylmethyl)-3,3-dimethylindolin-5-ol (20.0 mg, 0.09 mmol) using the same procedure employed for Example 2 (2), but with 4-dimethylaminophenylisocyanate instead of 4-isopropylphenylisocyanate. The product was obtained as a white solid (2.1 mg, 6%) having the following characteristics.

reactant | 1-(4-pyridylmethyl)-3,3-dimethylindolin-5-ol | 0.09 mmol, 20.0 mg | N1=CC=C(C=C1)CN1CC(C2=CC(=CC=C12)O)(C)C | C16H18N2O
reactant | 4-dimethylaminophenylisocyanate | CN(C1=CC=C(C=C1)N=C=O)C | C9H10N2O
product | 1-(4-pyridylmethyl)-3,3-dimethylindolin-5-yl 4-dimethylaminophenylcarbamate | CN(C1=CC=C(C=C1)NC(OC=1C=C2C(CN(C2=CC1)CC1=CC=NC=C1)(C)C)=O)C | C25H28N4O2
